US06451740B2
To 30 ml of conc. hydrochloric acid was added 2.0 g of methyl [2-(5-acetylamino-2-amino-4-fluorophenoxy)phenoxy]acetate, and the mixture was stirred for 1 hour at room temperature. Thereafter, a mixture of 0.42 g of sodium nitrite and 3 ml of water was added under ice cool. The mixture was stirred for 1 hour under the same condition, then, 40 ml of t-butyl methyl ether was added, then, 0.85 g of copper (I) chloride was added. The mixture was stirred for 30 minutes, then, water was added to this, and extracted with t-butyl methyl ether, and the organic layer was washed with water, dried over magnesium sulfate and concentrated, and the resulted residue was purified by column chromatography (eluent: hexane/ethyl acetate=2/1) to obtain 0.52 g of methyl [2-(5-acetylamino-2-chloro-4-fluorophenoxy)phenoxy]acetate.

reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | methyl [2-(5-acetylamino-2-amino-4-fluorophenoxy)phenoxy]acetate | 2.0 g | C(C)(=O)NC=1C(=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)N)F | C17H17FN2O5
reactant | sodium nitrite | 0.42 g | N(=O)[O-].[Na+]
catalyst | copper (I) chloride | 0.85 g | [Cu]Cl
solvent | water | O | H2O
solvent | t-butyl methyl ether | 40 ml | COC(C)(C)C | C5H12O
solvent | water | 3 ml | O | H2O
product | methyl [2-(5-acetylamino-2-chloro-4-fluorophenoxy)phenoxy]acetate | 0.52 g | C(C)(=O)NC=1C(=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)Cl)F | C17H15ClFNO5
